US05399590
STAGE I: Dimethyl (undecen-8-yl) amine
A mixture of 96.49 g of undecylenyl bromide and 314.0 ml of dimethylamine is agitated for 48 hours at 20° C. At the end of the reaction, the pH is brought to 2 by a hydrochloric acid solution (10%). The amine is extracted with methylene chloride.

reactant | undecylenyl bromide | 96.49 g | C(CCCCCCCCC=C)Br | C11H21Br
reactant | dimethylamine | 314.0 ml | CNC | C2H7N
reactant | hydrochloric acid | Cl | ClH
product | Dimethyl (undecen-8-yl) amine | CN(C(CCCCCC=C)CCC)C | C13H27N
